US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.14 mmol), 4-chloro-3-nitrobenzaldehyde (0.50 mmol), methanol (1.5 mL), and acetic acid (0.070 mL) was added NaBH3CN (0.63 mmol) in methanol (1.3 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH. Product was eluted off using 2 N NH3 in CH3OH and concentrated. The resulting material was dissolved into ethyl acetate/methanol=5/1, loaded onto Varian™ Si column, eluted off using ethyl acetate/methanol=5/1 (6 mL), and concentrated to give 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chloro-3-nitrobenzyl)piperidine (44 mg, 53%): ESI/MS m/e 596.3 (M++H).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.14 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 4-chloro-3-nitrobenzaldehyde | 0.50 mmol | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | acetic acid | 0.070 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.63 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 1.3 mL | CO | CH4O
solvent | methanol | 1.5 mL | CO | CH4O
product | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chloro-3-nitrobenzyl)piperidine | 44 mg, 53% | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C(C(=C1)F)F | C27H32ClF2N5O6
